US09212182B2
Intermediate DU: (2,2-dimethyltetrahydro-2H-pyran-4-yl)zinc(II) iodide
The title compound was prepared in an analogous, manner to tetrahydro-2H-pyran-4-yl)zinc(II) iodide except that 2,2-dimethyltetrahydro-2H-pyran-4-ol (Combi Blocks) was used instead of tetrahydro-2H-pyran-4-ol in Step 1 to afford a 0.24M solution of (2,2-dimethyltetrahydro-2H-pyran-4-yl)zinc(II) iodide in THF.

reactant | zinc(II) iodide | [I-].[Zn+2].[I-]
reactant | 2,2-dimethyltetrahydro-2H-pyran-4-ol | CC1(OCCC(C1)O)C | C7H14O2
solvent | THF | C1CCOC1 | C4H8O
product | (2,2-dimethyltetrahydro-2H-pyran-4-yl)zinc(II) iodide | [I-].CC1(OCCC(C1)[Zn+])C | InChI=1S/C7H13O.HI.Zn/c1-7(2)5-3-4-6-8-7;;/h3H,4-6H2,1-2H3;1H;/q;;+1/p-1
